US08835462B2
A suspension of N-((3S,7R,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2,6-dioxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide, prepared as described by Ricks, Michael J. et al. in U.S. Pat. No. 6,706,740 2004, (20.0 grams (g), 38.7 millimole (mmol), 1.00 equivalent (equiv)) in 6M HCl (200 milliliters (mL)) was heated to 100° C. with rapid stirring. After 1 hour (h), the resulting brown solution was cooled to 23° C. and extracted with diethyl ether (Et2O; 2×200 mL). The organic extracts were combined, washed with saturated (sat'd) aqueous sodium bicarbonate (NaHCO3) solution (100 mL), dried over magnesium sulfate (MgSO4), filtered, and concentrated to provide (3R,4R,5S)-3-benzyl-4-hydroxy-5-methyldihydrofuran-2(3H)-one (5.62 g, 70%) as a tan solid.

reactant | N-((3S,7R,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2,6-dioxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | C(C1=CC=CC=C1)[C@H]1C(OC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(C1=NC=CC(=C1O)OC)=O)=O | C22H24N2O8
solvent | HCl | 6M, 200 milliliters | Cl | ClH
product | (3R,4R,5S)-3-benzyl-4-hydroxy-5-methyldihydrofuran-2(3H)-one | 5.62 g, 70% | C(C1=CC=CC=C1)[C@H]1C(O[C@H]([C@@H]1O)C)=O | C12H14O3
